US06114530
A. Ethyl 1-(2,4,6-trimethylphenyl)-1,2-dihydro-2-isoquinolinecarboxylate
A solution of 2-mesitylmagnesium bromide in THF (1.0 M, 11 mL; 11 mmol) was added to an ice-cold solution of isoquinoline (1.3 g, 10 mmol) in THF (10 ml). After 5 minutes, ethyl chloroformate was added slowly dropwise and the mixture was further stirred at 0° C. for 10 min before quenched by saturated NH4CL solution. The mixture was poured into 0.5 N hydrochloric acid and extracted twice with ethyl ether. Combined organics were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to give 3.58 g of titled compound (quantitative) as an oil which was used in the next reaction without further purification.

reactant | 2-mesitylmagnesium bromide | C1(=C(C(=CC(=C1)C)C)[Mg]Br)C
reactant | isoquinoline | 10 mmol, 1.3 g | C1=NC=CC2=CC=CC=C12 | C9H7N
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 11 mmol, 1.0 M, 11 mL | C1CCOC1 | C4H8O
product | Ethyl 1-(2,4,6-trimethylphenyl)-1,2-dihydro-2-isoquinolinecarboxylate | 3.58 g | CC1=C(C(=CC(=C1)C)C)C1N(C=CC2=CC=CC=C12)C(=O)OCC | C21H23NO2
